US09079853B2
1-butyl-5-chloroindoline-2,3-dione
Was made in an analogous fashion to 1-propylindoline-2,3-dione from commercially available 5-chloro isatin (purchased from Fisher Scientific) and commercially available 1-bromo butane (purchased from Fisher Scientific). 1H NMR δ 7.57 (m, 2H), 6.87 (d, 1H), 3.72 (t, 2H), 1.69 (m, 2H), 1.43 (m, 2H), 0.99 (t, 3H).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5-chloro isatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 1-bromo butane | BrCCCC | C4H9Br
product | 1-butyl-5-chloroindoline-2,3-dione | C(CCC)N1C(C(C2=CC(=CC=C12)Cl)=O)=O | C12H12ClNO2
